US07345067B2
A solution of crude (2-methyl-4-{methyl-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethyl]-amino}-phenoxy)-acetic acid ethyl ester (0.84 g containing 0.74 g, 1.54 mmol) in THF/EtOH (9.2 ml, 1:1) were treated at 0° C. with 1M LiOH (4.6 ml, 4.6 mmol) for 2 min. After 2 h at RT, the solution was acidified by adding aqueous 10% KHSO4, and the mixture was extracted with Et2O (3×). The organic phase was washed with aqueous 10% NaCl, dried over Na2SO4 and evaporated. Crystallization (CH2Cl2/Et2O) gave 0.57 g (82%) (2-methyl-4-{methyl-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethyl]-amino}-phenoxy)-acetic acid as light yellow powder, MS: 449 (M-H)−, MP: 146-149° C., dec.

reactant | (2-methyl-4-{methyl-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethyl]-amino}-phenoxy)-acetic acid ethyl ester | 1.54 mmol, 0.84 g | C(C)OC(COC1=C(C=C(C=C1)N(CC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C)C)C)=O | C24H25F3N2O3S
reactant | LiOH | 4.6 mmol, 1M, 4.6 ml | [Li+].[OH-]
reactant | KHSO4 | OS(=O)(=O)[O-].[K+]
solvent | THF EtOH | 9.2 ml | C1CCOC1.CCO
product | (2-methyl-4-{methyl-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethyl]-amino}-phenoxy)-acetic acid | 0.57 g, 82% | CC1=C(OCC(=O)O)C=CC(=C1)N(CC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C)C | C22H21F3N2O3S
